US06660678B1
Preparation of a Bis(carbazolyl) Zirconium Complex
The procedure of Example 16 of U.S. Pat. No. 5,539,124 is followed to prepare a bis(carbazolyl) zirconium complex. This procedure uses methylmagnesium bromide to deprotonate carbazole, and combines the resulting anion with 0.5 eq. of zirconium tetrachloride in ether at −78° C. After warming to room temperature, the mixture is stripped to remove ether. Toluene is added, and the mixture is filtered to remove insoluble material. The filtrate is then stripped to yield the bis(carbazolyl) complex.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | carbazole | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | zirconium tetrachloride | 0.5 eq. | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | ether | CCOCC | C4H10O
product | Bis(carbazolyl) Zirconium | C1(=CC=CC=2C3=CC=CC=C3NC12)[Zr]C1=CC=CC=2C3=CC=CC=C3NC12 | InChI=1S/2C12H8N.Zr/c2*1-3-7-11-9(5-1)10-6-2-4-8-12(10)13-11;/h2*1-7,13H;
